US07714009B2
N2-Mesityl-5-methyl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine
To a solution of N2-mesityl-5-methyl-1,3-benzothiazole-2,7-diamine (10 mg, 0.0336) in dichloromethane (1 ml) was added propionaldehyde (0.012 ml, 0.168 mmol) followed after 30 min by sodium triacetoxyborohydride (29 mg, 0.135 mmol) and AcOH (0.0039 ml). The mixture was stirred at room temperature for 18 h. The reaction was quenched with saturated NaHCO3 solution. The aqueous solution was extracted with dichloromethane. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was triturated with n-hexane. The resulting solid was collected by filtration to afford 6.8 mg of the title compound.

reactant | N2-mesityl-5-methyl-1,3-benzothiazole-2,7-diamine | 10 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2N)C)C | C17H19N3S
reactant | propionaldehyde | 0.168 mmol, 0.012 ml | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.135 mmol, 29 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.0039 ml | CC(=O)O | C2H4O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N2-Mesityl-5-methyl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine | 6.8 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2N(CCC)CCC)C)C | C23H31N3S
